US07358345B2
4-(5-nitrothiazol-yl-azo)-N-butyl-N-(2-cyanomethoxy-carbonylethyl)aniline
2-amino-5-nitrothiazole (2.9 parts) was set stirring at 5° C. with a mixture of acetic acid and propionic acid, 86:14 (50 parts). Nitrosyl sulphuric acid 40% (7.0 parts) was added below 5° C. and the mixture was stirred for 30 mins. The diazo solution was added gradually to a stirred coupling mixture of N-butyl, N-2(cyanomethoxycarbonylethyl)-aniline (5.2 parts), acetone (50 parts), water (200 parts) and sulphamic acid (0.5 parts). After one hour the product was isolated by filtration, washed with cold water and dried to yield, 4-(5-nitrothiazol-yl-azo)-N-butyl-N-(2-cyanomethoxycarbonylethyl)aniline (2.9 parts) λmax=571 nm (acetone).

reactant | 2-amino-5-nitrothiazole | NC=1SC(=CN1)[N+](=O)[O-] | C3H3N3O2S
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | Nitrosyl sulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | sulphamic acid | S(N)(O)(=O)=O | H3NO3S
reactant | 4-(5-nitrothiazol-yl-azo)-N-butyl-N-(2-cyanomethoxycarbonylethyl)aniline | [N+](=O)([O-])C1=CN=C(S1)N=NC1=CC=C(N(CCC(=O)OCC#N)CCCC)C=C1 | C18H20N6O4S
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(5-nitrothiazol-yl-azo)-N-butyl-N-(2-cyanomethoxy-carbonylethyl)aniline | [N+](=O)([O-])C1=CN=C(S1)N=NC1=CC=C(N(CC(OCC#N)=C=O)CCCC)C=C1 | C18H18N6O4S
